US03998955
20.4 g (0.2 mol) of acetic anhydride are added dropwise to a solution of 19.5 g (0.1 mol) of 4-methoxy-5-n-butyl-2-picoline-N-oxide in 100 ml of toluene over the course of 15 minutes, whilst stirring. Thereafter the mixture is heated for 8 hours under reflux. After evaporation to dryness in vacuo, the mixture is rendered alkaline with 2 N aqueous sodium carbonate solution and is extracted with ether. The ether phases are combined, dried with sodium sulphate, filtered and evaporated. Distillation of the residue in a bulb tube in a high vacuum at 120° yields 2-acetoxymethyl-4-methoxy-5-n-butyl-pyridine.

reactant | acetic anhydride | 0.2 mol, 20.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-methoxy-5-n-butyl-2-picoline-N-oxide | 0.1 mol, 19.5 g | COC=1C=C([N+](=CC1CCCC)[O-])C | C11H17NO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-acetoxymethyl-4-methoxy-5-n-butyl-pyridine | C(C)(=O)OCC1=NC=C(C(=C1)OC)CCCC | C13H19NO3
